US08735440B2
Step 3: 3-(3,6-dibromo-9H-carbazol-9-yl)-2-fluoropropan-1-amine
9-(3-azido-2-fluoropropyl)-3,6-dibromo-9H-carbazole (60 mg, 0.14 mmol) and triphenylphosphine (44 mg, 0.168 mmol) were combined in 0.5 mL of THF and stirred overnight at 60° C. Upon completion 1 ml of H2O was added and the mixture was stirred for 1 hour. The mixture was extracted with EtOAc. The organic layer was washed with H2O, brine, and dried over Na2SO4 and concentrated to a white foam. This material was used in the next step without further purification.

reactant | 9-(3-azido-2-fluoropropyl)-3,6-dibromo-9H-carbazole | 0.14 mmol, 60 mg | N(=[N+]=[N-])CC(CN1C2=CC=C(C=C2C=2C=C(C=CC12)Br)Br)F | C15H11Br2FN4
reactant | triphenylphosphine | 0.168 mmol, 44 mg | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | H2O | 1 ml | O | H2O
solvent | THF | 0.5 mL | C1CCOC1 | C4H8O
product | 3-(3,6-dibromo-9H-carbazol-9-yl)-2-fluoropropan-1-amine | BrC=1C=CC=2N(C3=CC=C(C=C3C2C1)Br)CC(CN)F | C15H13Br2FN2
